* NGSPICE file created from dyn_comp.ext - technology: sky130B

.subckt sky130_fd_pr__nfet_01v8_ML4XRG D S G VSUBS
X0 S G D VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
.ends

.subckt sky130_fd_pr__pfet_01v8_KDZMJM D S G w_n144_n198#
X0 S G D w_n144_n198# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
.ends

.subckt sky130_fd_pr__nfet_01v8_9ZWGZ9 D S G VSUBS
X0 S G D VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
.ends

.subckt dyn_comp gnd
Xsky130_fd_pr__nfet_01v8_ML4XRG_0 voutp gnd voutn VSUBS sky130_fd_pr__nfet_01v8_ML4XRG
Xsky130_fd_pr__nfet_01v8_ML4XRG_1 gnd voutn voutp VSUBS sky130_fd_pr__nfet_01v8_ML4XRG
Xsky130_fd_pr__pfet_01v8_KDZMJM_0 sky130_fd_pr__pfet_01v8_KDZMJM_3/S voutn voutp w_752_n920#
+ sky130_fd_pr__pfet_01v8_KDZMJM
XXMmirr3 XMmirr3/D vdd vbias_n w_752_n920# sky130_fd_pr__pfet_01v8_KDZMJM
Xsky130_fd_pr__pfet_01v8_KDZMJM_1 vdd sky130_fd_pr__pfet_01v8_KDZMJM_1/S vbias_n w_752_n920#
+ sky130_fd_pr__pfet_01v8_KDZMJM
Xsky130_fd_pr__pfet_01v8_KDZMJM_2 voutp sky130_fd_pr__pfet_01v8_KDZMJM_3/S voutn w_752_n920#
+ sky130_fd_pr__pfet_01v8_KDZMJM
Xsky130_fd_pr__pfet_01v8_KDZMJM_3 vdd sky130_fd_pr__pfet_01v8_KDZMJM_3/S vbias_p w_752_n920#
+ sky130_fd_pr__pfet_01v8_KDZMJM
XXsky130_fd_pr__nfet_01v8_9ZWGZ9_1 voutn gnd sky130_fd_pr__pfet_01v8_KDZMJM_1/S VSUBS
+ sky130_fd_pr__nfet_01v8_9ZWGZ9
Xsky130_fd_pr__nfet_01v8_9ZWGZ9_0 sky130_fd_pr__pfet_01v8_KDZMJM_1/S sky130_fd_pr__nfet_01v8_9ZWGZ9_2/D
+ vp VSUBS sky130_fd_pr__nfet_01v8_9ZWGZ9
Xsky130_fd_pr__nfet_01v8_9ZWGZ9_1 gnd sky130_fd_pr__nfet_01v8_9ZWGZ9_2/D vbias_n VSUBS
+ sky130_fd_pr__nfet_01v8_9ZWGZ9
Xsky130_fd_pr__nfet_01v8_9ZWGZ9_2 sky130_fd_pr__nfet_01v8_9ZWGZ9_2/D XMmirr3/D Vm
+ VSUBS sky130_fd_pr__nfet_01v8_9ZWGZ9
Xsky130_fd_pr__nfet_01v8_9ZWGZ9_3 gnd voutp XMmirr3/D VSUBS sky130_fd_pr__nfet_01v8_9ZWGZ9
.ends

