************************************************************************
* auCdl Netlist:
* 
* Library Name:  dyn_comp_s130
* Top Cell Name: dyn_comp_v1
* View Name:     schematic
* Netlisted on:  Apr 22 10:18:30 2026
************************************************************************

.INCLUDE  $PDK_HOME/PV/Calibre/LVS/source.cdl
*.EQUATION
*.SCALE METER
.PARAM



************************************************************************
* Library Name: dyn_comp_s130
* Cell Name:    dyn_comp_v1
* View Name:    schematic
************************************************************************

.SUBCKT dyn_comp_v1 DETECT GND VDD nDETECT vm voutn voutp vp
*.PININFO DETECT:I nDETECT:I vm:I vp:I voutn:O voutp:O GND:B VDD:B
MMN6 outn outp GND GND nmos W=1 L=0.15 M=1
MMN5 outp outn GND GND nmos W=1 L=0.15 M=1
MMN2 vsource DETECT GND GND nmos W=1 L=0.15 M=1
MMN1 int_outn vm vsource GND nmos W=1 L=0.15 M=1
MMN0 int_outp vp vsource GND nmos W=1 L=0.15 M=1
MMP4 int_outp DETECT VDD VDD pmos W=0.42 L=0.15 M=1
MMP3 int_outn DETECT VDD VDD pmos W=0.42 L=0.15 M=1
MMN4 outn int_outn GND GND nmos W=1 L=0.15 M=4
MMN3 outp int_outp GND GND nmos W=1 L=0.15 M=4
MMP2 net1 nDETECT VDD VDD pmos W=1 L=0.5 M=1
MMP1 outp outn net1 VDD pmos W=1 L=0.5 M=1
MMP0 outn outp net1 VDD pmos W=1 L=0.5 M=1
MMN8 voutn outp GND GND nmos W=1 L=1 M=1
MMN7 voutp outn GND GND nmos W=1 L=1 M=1
MMP6 voutn outp VDD VDD pmos W=2 L=1 M=1
MMP5 voutp outn VDD VDD pmos W=2 L=1 M=1
.ENDS

