************************************************************************
* auCdl Netlist:
* 
* Library Name:  biasgen_opendvs_3_25_26
* Top Cell Name: BiasBuffers
* View Name:     schematic
* Netlisted on:  Apr 16 07:02:44 2026
************************************************************************

.INCLUDE  $PDK_HOME/PV/Calibre/LVS/source.cdl
*.EQUATION
*.SCALE METER
.PARAM



************************************************************************
* Library Name: scs130hd
* Cell Name:    scs130hd_inv_1
* View Name:    schematic
************************************************************************

.SUBCKT scs130hd_inv_1 A Y vgnd vnb vpb vpwr
*.PININFO A:I vgnd:I vnb:I vpb:I vpwr:I Y:O
MmMIN1 Y A vgnd vnb nmos W=0.65 L=0.15 M=1
MmMIP1 Y A vpwr vpb pmos_hvt W=1 L=0.15 M=1
.ENDS

************************************************************************
* Library Name: scs130hd
* Cell Name:    scs130hd_nor2_1
* View Name:    schematic
************************************************************************

.SUBCKT scs130hd_nor2_1 A B Y vgnd vnb vpb vpwr
*.PININFO A:I B:I vgnd:I vnb:I vpb:I vpwr:I Y:O
MmMP1 sndPA B Y vpb pmos_hvt W=1 L=0.15 M=1
MmMP0 vpwr A sndPA vpb pmos_hvt W=1 L=0.15 M=1
MmMN0 Y A vgnd vnb nmos W=0.65 L=0.15 M=1
MmMN1 Y B vgnd vnb nmos W=0.65 L=0.15 M=1
.ENDS

************************************************************************
* Library Name: scs130hd
* Cell Name:    scs130hd_and2_1
* View Name:    schematic
************************************************************************

.SUBCKT scs130hd_and2_1 A B X vgnd vnb vpb vpwr
*.PININFO A:I B:I vgnd:I vnb:I vpb:I vpwr:I X:O
MmMN0 y A sndA vnb nmos W=0.42 L=0.15 M=1
MmMN1 sndA B vgnd vnb nmos W=0.42 L=0.15 M=1
MmMIN0 X y vgnd vnb nmos W=0.65 L=0.15 M=1
MmMP0 y A vpwr vpb pmos_hvt W=0.42 L=0.15 M=1
MmMP1 y B vpwr vpb pmos_hvt W=0.42 L=0.15 M=1
MmMIP0 X y vpwr vpb pmos_hvt W=1 L=0.15 M=1
.ENDS

************************************************************************
* Library Name: biasgen_opendvs_3_25_26
* Cell Name:    BiasBuffers
* View Name:    schematic
************************************************************************

.SUBCKT BiasBuffers BIT0 BiasDisabled BufferNBias BufferPBias GND NBiasEnabled 
+ PBiasEnabled PowerDown Rail SplitterOutput VBiasOut VddA18
*.PININFO BIT0:I BiasDisabled:I BufferNBias:I BufferPBias:I NBiasEnabled:I 
*.PININFO PBiasEnabled:I PowerDown:I VBiasOut:O GND:B Rail:B SplitterOutput:B 
*.PININFO VddA18:B
MMN0 NBias BufferNBias GND GND nmos_lvt W=6 L=6 M=16
MMN2 nCopy NBias GND GND nmos W=6 L=6 M=1
MMN1 SplitterOutput NBias GND GND nmos W=6 L=6 M=1
MMN6 net3 SplitterOutput net2 GND nmos_lvt W=0.5 L=2.4 M=1
MMP2 net3 disable VddA18 VddA18 pmos W=1 L=0.15 M=1
MMP3 nCopy PBias VddA18 VddA18 pmos W=6 L=3 M=2
MMN5 net3 SplitterOutput net1 GND nmos_lvt W=2.4 L=0.24 M=10
MMP5 net5 nB0 PBias VddA18 pmos W=1 L=0.38 M=1
MMP4 net4 B0 PBias VddA18 pmos W=1 L=0.38 M=1
MMP1 NBias nB0 net2 VddA18 pmos W=1 L=0.38 M=1
MMP0 NBias B0 net1 VddA18 pmos W=1 L=0.38 M=1
MMN9 net6 net8 GND GND nmos W=1 L=0.15 M=1
MMN4 net1 nB0 NBias GND nmos W=1 L=0.15 M=1
MMN3 net2 B0 NBias GND nmos W=1 L=0.15 M=1
MMN8 PBias B0 net5 GND nmos W=1 L=0.38 M=1
MMN7 PBias nB0 net4 GND nmos W=1 L=0.38 M=1
MMP6 net6 nCopy net4 VddA18 pmos_lvt W=2.4 L=0.38 M=6
MMN13 VBiasOut PowerDown Rail GND nmos W=4 L=0.15 M=1
MMN12 net11 nPowerDown VBiasOut GND nmos W=4 L=0.15 M=1
MMN11 net11 PBiasEnabled PBias GND nmos W=4 L=0.15 M=1
MMN10 NBias NBiasEnabled net11 GND nmos W=4 L=0.15 M=1
MMP7 net6 nCopy net5 VddA18 pmos_lvt W=0.5 L=2.4 M=1
MMP12 VBiasOut PowerDown net11 VddA18 pmos W=4 L=0.38 M=1
MMP11 Rail nPowerDown VBiasOut VddA18 pmos W=4 L=0.38 M=1
MMP10 PBias NBiasEnabled net11 VddA18 pmos W=4 L=0.38 M=1
MMP9 net11 PBiasEnabled NBias VddA18 pmos W=4 L=0.38 M=1
MMP8 PBias BufferPBias VddA18 VddA18 pmos_lvt W=6 L=3 M=2
XI3 nB0 B0 GND GND VddA18 VddA18 / scs130hd_inv_1
XI2 ndisable disable GND GND VddA18 VddA18 / scs130hd_inv_1
XI1 BIT0 nB0 GND GND VddA18 VddA18 / scs130hd_inv_1
XI0 PowerDown nPowerDown GND GND VddA18 VddA18 / scs130hd_inv_1
XI4 PowerDown BiasDisabled ndisable GND GND VddA18 VddA18 / scs130hd_nor2_1
XI5 ndisable PBiasEnabled net8 GND GND VddA18 VddA18 / scs130hd_and2_1
.ENDS

