************************************************************************
* auCdl Netlist:
* 
* Library Name:  biasgen_opendvs_3_25_26
* Top Cell Name: BiasDividerFine
* View Name:     schematic
* Netlisted on:  Apr  8 17:45:48 2026
************************************************************************

.INCLUDE  $PDK_HOME/PV/Calibre/LVS/source.cdl
*.EQUATION
*.SCALE METER
.PARAM



************************************************************************
* Library Name: biasgen_opendvs_3_25_26
* Cell Name:    BiasDividerFineCell
* View Name:    schematic
************************************************************************

.SUBCKT BiasDividerFineCell INOut INext IOut IPrev Sel VGate VddA18 nSel
*.PININFO Sel:I VGate:I nSel:I INOut:B INext:B IOut:B IPrev:B VddA18:B
MMP7 INext VGate IPrev VddA18 pmos_lvt W=9 L=1 M=1
MMP6 net1 VGate IPrev VddA18 pmos_lvt W=9 L=1 M=1
MMP5 net2 VGate net1 VddA18 pmos_lvt W=9 L=1 M=1
MM2r1 net2 VGate net1 VddA18 pmos_lvt W=9 L=1 M=1
MM2ru net1 VGate IPrev VddA18 pmos_lvt W=9 L=1 M=1
MMr INext VGate IPrev VddA18 pmos_lvt W=9 L=1 M=1
MMP0 IOut nSel net2 VddA18 pmos_hvt W=2 L=0.5 M=1
MMP1 INOut Sel net2 VddA18 pmos_hvt W=2 L=0.5 M=1
.ENDS

************************************************************************
* Library Name: biasgen_opendvs_3_25_26
* Cell Name:    BiasDividerFine
* View Name:    schematic
************************************************************************

.SUBCKT BiasDividerFine GndA IIn IOut Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 VGate VddA18 nQ0 
+ nQ1 nQ2 nQ3 nQ4 nQ5 nQ6 nQ7
*.PININFO Q0:I Q1:I Q2:I Q3:I Q4:I Q5:I Q6:I Q7:I VGate:I nQ0:I nQ1:I nQ2:I 
*.PININFO nQ3:I nQ4:I nQ5:I nQ6:I nQ7:I GndA:B IIn:B IOut:B VddA18:B
XI7 termDio Idiv7 IOut IIn Q7 VGate VddA18 nQ7 / BiasDividerFineCell
XI6 termDio Idiv6 IOut Idiv7 Q6 VGate VddA18 nQ6 / BiasDividerFineCell
XI5 termDio Idiv5 IOut Idiv6 Q5 VGate VddA18 nQ5 / BiasDividerFineCell
XI4 termDio Idiv4 IOut Idiv5 Q4 VGate VddA18 nQ4 / BiasDividerFineCell
XI3 termDio Idiv3 IOut Idiv4 Q3 VGate VddA18 nQ3 / BiasDividerFineCell
XI2 termDio Idiv2 IOut Idiv3 Q2 VGate VddA18 nQ2 / BiasDividerFineCell
XI1 termDio Idiv1 IOut Idiv2 Q1 VGate VddA18 nQ1 / BiasDividerFineCell
XI0 termDio Idiv0 IOut Idiv1 Q0 VGate VddA18 nQ0 / BiasDividerFineCell
MMP0 termDio VGate Idiv0 VddA18 pmos_lvt W=9 L=1 M=2
MMN0 termDio termDio GndA GndA nmos_lvt W=8 L=0.8 M=1
.ENDS

